US04569801
A 500 ml 3-neck round bottom flask fitted with a thermometer and addition funnel was charged with 7.65 g of sodium carbonate and 70 ml of water. To this mixture was added 6.8 g (0.029 mol) of N-ethyl-α-methyl-4-nitrobenzenebutanamine and 70 ml of acetone. The resulting mixture was cooled to slightly below 25° C. and 4.5 ml (0.029 mol) of heptanoyl chloride and 70 ml of acetone were added while maintaining the temperature of the mixture in the range of about 20°-25° C. The suspension was stirred at room temperature overnight and evaporated to dryness under reduced pressure. The residue was slurried in water and extracted three times with diethyl ether. The organic extracts were combined, washed with water, 2N hydrochloric acid, twice with water and finally a saturated sodium chloride solution. The organic phase was dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure to provide 7.723 g of N-ethyl-N-[1-methyl-4-(4-nitrophenyl)butyl]heptanamide as an oil.

reactant | sodium carbonate | 7.65 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 70 ml | O | H2O
reactant | N-ethyl-α-methyl-4-nitrobenzenebutanamine | 0.029 mol, 6.8 g | C(C)NC(CCCC1=CC=C(C=C1)[N+](=O)[O-])C | C13H20N2O2
reactant | heptanoyl chloride | 0.029 mol, 4.5 ml | C(CCCCCC)(=O)Cl | C7H13ClO
solvent | acetone | 70 ml | CC(=O)C | C3H6O
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | N-ethyl-N-[1-methyl-4-(4-nitrophenyl)butyl]heptanamide | 7.723 g | C(C)N(C(CCCCCC)=O)C(CCCC1=CC=C(C=C1)[N+](=O)[O-])C | C20H32N2O3
